US06680317B2
e) Preparation of N-[4-Chloro-2-hydroxy-3-(N″,N″-dimethylaminosulfonyl)phenyl]-N′-(2-chloro-4-fluorophenyl)cyanoguanidine
Following the general procedure for cyanoguanidine formation outlined in example 12, N-[4-chloro-2-tert-butyldimethylsilyloxy-3-(N″,N″-dimethylaminosulfonyl)phenyl]N′-(2-chloro4-fluorophenyl)carbodiimide (420 mg, 0.81 mmol), cyanamide (136 mg, 3.24 mmol) and N,N-diisopropylethylamine (126 mg, 1.62 mmol) were reacted, followed by desilylation with Cesium fluoride (148 mg, 1.62 mmol) to form the desired product (180 mg, 50%). EI-MS m/z 446.2 (M+).

reactant | cyanoguanidine | C(#N)NC(=N)N | C2H4N4
reactant | N-[4-chloro-2-tert-butyldimethylsilyloxy-3-(N″,N″-dimethylaminosulfonyl)phenyl]N′-(2-chloro4-fluorophenyl)carbodiimide | 0.81 mmol, 420 mg | ClC1=C(C(=C(C=C1)N=C=NC1=C(C=C(C=C1)F)Cl)O[Si](C)(C)C(C)(C)C)S(=O)(=O)N(C)C | C21H26Cl2FN3O3SSi
reactant | cyanamide | 3.24 mmol, 136 mg | N#CN | CH2N2
reactant | N,N-diisopropylethylamine | 1.62 mmol, 126 mg | C(C)(C)N(C(C)C)CC | C8H19N
reactant | Cesium fluoride | 1.62 mmol, 148 mg | [F-].[Cs+]
product | N-[4-Chloro-2-hydroxy-3-(N″,N″-dimethylaminosulfonyl)phenyl]-N′-(2-chloro-4-fluorophenyl)cyanoguanidine | 180 mg, 50% | ClC1=C(C(=C(C=C1)N(C(=N)NC1=C(C=C(C=C1)F)Cl)C#N)O)S(=O)(=O)N(C)C | C16H14Cl2FN5O3S
